### PR TITLE
[Merged by Bors] - feat: uniform time lemma for the existence of global integral curves

### PR DESCRIPTION
**Pull request by winstonyin**
Lemma 9.15 in Lee's Introduction to Smooth Manifolds:

> Let `v` be a smooth vector field on a smooth manifold `M`. If there exists `ε > 0` such that for each point `x : M`, there exists an integral curve of `v` through `x` defined on an open interval `Ioo (-ε) ε`, then every point on `M` has a global integral curve of `v` passing through it.

We only require `v` to be $C^1$.

To achieve this, we define the extension of an integral curve `γ` by another integral curve `γ'`, if they agree at a point inside their overlapping open interval domains. This utilises the uniqueness theorem of integral curves.

We need this lemma to show that vector fields on compact manifolds always have global integral curves.

- [x] depends on: #8886 
- [x] depends on: #18833
- [x] depends on: #19008

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by winstonyin** [comment]
@grunweg I got ahead of myself and formalised one more lemma. It turned out to be a bit tricky, because I had to define the extension of an integral curve by another integral curve. This extension is used in two separate places:
* inductively to define a global integral curve from a sequence of integral curves defined on `Ioo (-n) n` for natural numbers `n`;
* to show that the set of real numbers `a` such that `Ioo (-a) a` cannot be bounded above (this part uses the uniqueness theorem and the uniform time hypothesis).

Ideally, most of the inequality manipulations can be golfed by tactics, but I've found them unreliable.

There are two directions after this:
* showing that compactly supported vector fields (or vector fields on compact manifolds) always admit global integral curves (this requires the smooth dependence of ODE solutions to initial conditions)
* showing that left-invariant vector fields on Lie groups always admit global integral curves (this requires defining left-invariant vector fields, maybe making contact with `LeftInvariantDerivation`)

It seems the necessary ingredients are not all in Mathlib yet, so I'll stop here, take a break, and do some more polishing later.

**Comment by winstonyin** [comment]
The inductive extension of integral curves to a global integral curve is overcomplicated. I simplified it!

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 1]
```diff
@@ -0,0 +1,767 @@
...
+    (h : ∀ a, ∃ γ, γ 0 = x ∧ IsIntegralCurveOn γ v (Ioo (-a) a)) {a a' : ℝ} (hpos : 0 < a')
+    (hle : a' ≤ a) : EqOn (choose (h a')) (choose (h a)) (Ioo (-a') a') := by
+  have ⟨h0', hγ'⟩ := choose_spec (h a')
+  have ⟨h0, hγ⟩ := choose_spec (h a)
+  apply isIntegralCurveOn_Ioo_eqOn_of_contMDiff_boundaryless _ hv hγ' (hγ.mono _) (by rw [h0', h0])
+  · rw [mem_Ioo]
+    exact ⟨neg_lt_zero.mpr hpos, by positivity⟩
+  · apply Ioo_subset_Ioo <;> linarith
+
+/-- Auxiliary lemma. Suppose for every `a : ℝ`, there exists an integral curve defined on
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:588]: How about this? (You can add "aux" to the lemma name if you want.)

/-- Suppose for every `a : ℝ`, there exists an integral curve `γ a` on `Ioo (-a) a`.
Then, the global curve `γ_ext := fun t ↦ γ (|t| + 1) t` agrees with each `γ a` on `Ioo (-a) a`.
This will help us show that `γ` is a global integral curve. -/

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 2]
```diff
@@ -0,0 +1,767 @@
...
+
+lemma piecewise_eqOn_symm [BoundarylessManifold I M]
+    (hv : ContMDiff I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M)))
+    {a b a' b' : ℝ} (hγ : IsIntegralCurveOn γ v (Ioo a b))
+    (hγ' : IsIntegralCurveOn γ' v (Ioo a' b'))
+    (ht₀ : t₀ ∈ Ioo a b ∩ Ioo a' b') (h : γ t₀ = γ' t₀) :
+    EqOn (piecewise (Ioo a b) γ γ') γ' (Ioo a' b') := by
+  intros t ht
+  by_cases hle : t ≤ a
+  · rw [piecewise, if_neg]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:641]: This argument is present twice and can surely be factored out.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 3]
```diff
@@ -0,0 +1,767 @@
...
+
+    have hεle : ε ≤ asup := le_csSup hbdd (h x)
+
+    -- integral curve defined on `Ioo (-a) a`
+    obtain ⟨γ, h0, hγ⟩ := ha
+    -- integral curve starting at `-(asup - ε / 2)` with radius `ε`
+    obtain ⟨γ1_aux, h1_aux, hγ1_aux⟩ := h (γ (-(asup - ε / 2)))
+    let γ1 := γ1_aux ∘ (· + (asup - ε / 2))
+    have heq1 : γ1 (-(asup - ε / 2)) = γ (-(asup - ε / 2)) := by simp [h1_aux]
+    have hγ1 : IsIntegralCurveOn γ1 v (Ioo (-(asup + ε / 2)) (-(asup - ε))) := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:716]: There's quite a bit of code duplication in here - I'm sure this can be refactored (and perhaps be extracted into a separate lemma).

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 4]
```diff
@@ -0,0 +1,767 @@
...
+
+    -- extend `γ` on the left by `γ1` and on the right by `γ2`
+    set γ_ext : ℝ → M := piecewise (Ioo (-(asup + ε / 2)) a)
+      (piecewise (Ioo (-a) a) γ γ1) γ2 with γ_ext_def
+    have hext : IsIntegralCurveOn γ_ext v (Ioo (-(asup + ε / 2)) (asup + ε / 2)) := by
+      apply (isIntegralCurveOn_piecewise (t₀ := asup - ε / 2) hv _ hγ2
+        (by refine ⟨⟨?_, ?_⟩, ⟨?_, ?_⟩⟩ <;> linarith) _).mono
+      · rintro t ⟨ht1, ht2⟩
+        by_cases hlt : t < a
+        · exact mem_union_left _ ⟨ht1, hlt⟩
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:741]: This should also be a separate lemma.

**Review by grunweg — COMMENTED** [review]
I took an early look. (Some easy golfs I pushed directly.)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 2 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean]: Golfed!

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 4 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:762]: I golfed this a little by adding lemmas specialising the sets `s` to the form `Ioo a b` and adding translation lemmas for `sub` mirroring lemmas about `add`.

**Comment by Parcly-Taxel** [comment]
Please rebase (forcepush) rather than merge when you resolve the merge conflict. 265 commits is totally unwieldy.

**Comment by winstonyin** [comment]
@Parcly-Taxel Rebase wants me to step through every commit with merge conflicts, so I just merged anyway. 😬

**Comment by grunweg** [comment]
What you *can* do is manually squash: go to master and apply the changes of this PR. Given that it touches only two files, and one in a minimal way, that is doable. (In any case, for reviewing that is not required; I can review the diff just as well.)

**Comment by ocfnash** [comment]
> Please rebase (forcepush) rather than merge when you resolve the merge conflict. 265 commits is totally unwieldy.

I disagree with this advice.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 5]
```diff
@@ -132,6 +132,26 @@ lemma IsIntegralCurveAt.isIntegralCurveOn (h : ∀ t ∈ s, IsIntegralCurveAt γ
   obtain ⟨s, hs, h⟩ := isIntegralCurveAt_iff.mp (h t ht)
   exact h t (mem_of_mem_nhds hs)
 
+lemma IsIntegralCurveOn.congr_of_eqOn (hs : IsOpen s) (h : IsIntegralCurveOn γ v s)
+    (hγ : EqOn γ γ' s) : IsIntegralCurveOn γ' v s := by
+  intros t ht
+  rw [← hγ ht]
+  apply (h t ht).congr_of_eventuallyEq
+  exact Filter.eventuallyEq_of_mem (hs.mem_nhds ht) hγ.symm
+
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:141]: Let's also add:
```suggestion

lemma IsIntegralCurveOn.congr_of_eqOn_iff (hs : IsOpen s) (hγ : EqOn γ γ' s) :
    IsIntegralCurveOn γ v s ↔ IsIntegralCurveOn γ' v s :=
  ⟨fun h ↦ IsIntegralCurveOn.congr_of_eqOn hs h hγ,
   fun h ↦ IsIntegralCurveOn.congr_of_eqOn hs h hγ.symm⟩

```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 6]
```diff
@@ -132,6 +132,26 @@ lemma IsIntegralCurveAt.isIntegralCurveOn (h : ∀ t ∈ s, IsIntegralCurveAt γ
...
+  refine eventually_nhds_iff.mpr ⟨s, fun t ht ↦ ?_, hs1, hs2⟩
+  apply ((hdrv t ht).2 ▸ (hdrv t ht).1).congr_of_eventuallyEq
+  rw [Filter.eventuallyEq_iff_exists_mem]
+  exact ⟨s, hs1.mem_nhds ht, fun t' ht' ↦ (hdrv t' ht').2.symm⟩
+
+lemma IsIntegralCurve.congr (h : IsIntegralCurve γ v) (hγ : γ = γ') :
+    IsIntegralCurve γ' v := by
+  rw [isIntegralCurve_iff_isIntegralCurveOn] at *
+  apply h.congr_of_eqOn isOpen_univ <| (eqOn_univ γ γ').mpr hγ
+
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:154]:
```suggestion
```
I don't think you want this lemma. For emphasis, note that the proof can be just:
```lean
example (h : IsIntegralCurve γ v) (hγ : γ = γ') : IsIntegralCurve γ' v := hγ ▸ h
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 7]
```diff
@@ -199,14 +219,39 @@ lemma IsIntegralCurveOn.comp_add (hγ : IsIntegralCurveOn γ v s) (dt : ℝ) :
...
     simp only [Function.comp_apply, neg_add_cancel_right]
   · simp only [mem_setOf_eq, neg_add_cancel_right, setOf_mem_eq]
 
+lemma isIntegralCurveOn_comp_sub (dt : ℝ) :
+    IsIntegralCurveOn γ v s ↔ IsIntegralCurveOn (γ ∘ (· - dt)) v { t | t - dt ∈ s } := by
+  refine ⟨fun hγ ↦ hγ.comp_add _, fun hγ ↦ ?_⟩
+  convert hγ.comp_add dt
+  ext t
+  · simp only [Function.comp_apply, add_sub_cancel]
+  · simp only [mem_setOf_eq, add_sub_cancel, setOf_mem_eq]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:236]: What you have is fine but the convert-ext-simp pattern is so common that I like the make it easy to spot at a glance:
```suggestion
  convert hγ.comp_add dt <;> ext <;> simp
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 8]
```diff
@@ -199,14 +219,39 @@ lemma IsIntegralCurveOn.comp_add (hγ : IsIntegralCurveOn γ v s) (dt : ℝ) :
...
+
+-- TODO: missing lemma(s) for `Ioo`
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:238]: You should either add these lemmas or (if this is a red herring) excise this comment.

Note also that it may (or may not!) be useful to use the pointwise API. For example:
```lean
open Pointwise

example (a b dt : ℝ) : (-dt) +ᵥ Ioo a b = {t | t + dt ∈ Ioo a b} := by
  ext; simp [mem_neg_vadd_set_iff, add_comm dt]
```
etc.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 9]
```diff
@@ -216,26 +261,36 @@ lemma IsIntegralCurveAt.comp_add (hγ : IsIntegralCurveAt γ v t₀) (dt : ℝ)
...
   refine ⟨fun hγ ↦ hγ.comp_add _, fun hγ ↦ ?_⟩
   convert hγ.comp_add (-dt)
   · ext t
     simp only [Function.comp_apply, neg_add_cancel_right]
   · simp only [sub_neg_eq_add, sub_add_cancel]
 
+lemma isIntegralCurveAt_comp_sub (dt : ℝ) :
+    IsIntegralCurveAt γ v t₀ ↔ IsIntegralCurveAt (γ ∘ (· - dt)) v (t₀ + dt) := by
+  have := isIntegralCurveAt_comp_add (v := v) (γ := γ) (t₀ := t₀) (-dt)
+  simpa
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:275]:
```suggestion
  simpa using isIntegralCurveAt_comp_add (v := v) (γ := γ) (t₀ := t₀) (-dt)
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 10]
```diff
@@ -216,26 +261,36 @@ lemma IsIntegralCurveAt.comp_add (hγ : IsIntegralCurveAt γ v t₀) (dt : ℝ)
...
     IsIntegralCurve γ v ↔ IsIntegralCurve (γ ∘ (· + dt)) v := by
   refine ⟨fun hγ ↦ hγ.comp_add _, fun hγ ↦ ?_⟩
   convert hγ.comp_add (-dt)
   ext t
   simp only [Function.comp_apply, neg_add_cancel_right]
 
+lemma isIntegralCurve_comp_sub (dt : ℝ) :
+    IsIntegralCurve γ v ↔ IsIntegralCurve (γ ∘ (· - dt)) v := by
+  have := isIntegralCurve_comp_add (v := v) (γ := γ) (-dt)
+  simpa
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:292]:
```suggestion
  simpa using isIntegralCurve_comp_add (v := v) (γ := γ) (-dt)
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 11]
```diff
@@ -259,6 +314,23 @@ lemma isIntegralCurveOn_comp_mul_ne_zero {a : ℝ} (ha : a ≠ 0) :
   · simp only [smul_smul, inv_mul_eq_div, div_self ha, one_smul]
   · simp only [mem_setOf_eq, mul_assoc, inv_mul_eq_div, div_self ha, mul_one, setOf_mem_eq]
 
+-- TODO: missing lemma(s) about Ioo
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:317]: As above: add the lemmas or excise the comment if it turns out there aren't any appropriate lemmas.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 12]
```diff
@@ -532,4 +604,170 @@ lemma IsIntegralCurve.periodic_xor_injective [BoundarylessManifold I M]
       rw [abs_of_nonneg hab]
       exact hγ.periodic_of_eq hv heq
 
+section UniformTime
+
+lemma exists_isIntegralCurveOn_Ioo_eqOn [BoundarylessManifold I M]
+    (hv : ContMDiff I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M))) {x : M}
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:610]: Optional aside:

I know this pattern already exists elsewhere in this file but if you have the appetite, I think we need better syntax for saying "v is Cⁿ". Possibly an `abbrev` or possibly notation (or even both).

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 13]
```diff
@@ -532,4 +604,170 @@ lemma IsIntegralCurve.periodic_xor_injective [BoundarylessManifold I M]
       rw [abs_of_nonneg hab]
       exact hγ.periodic_of_eq hv heq
 
+section UniformTime
+
+lemma exists_isIntegralCurveOn_Ioo_eqOn [BoundarylessManifold I M]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:609]: This is a strange-looking lemma to me. Are you sure you need it?

If you do need then, I would state it as:
```lean
lemma eqOn_of_isIntegralCurveOn_Ioo [BoundarylessManifold I M]
    (hv : ContMDiff I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M))) {x : M}
    (γ : (a : ℝ) → ℝ → M) (hγx : ∀ a, γ a 0 = x) (hγ : ∀ a, IsIntegralCurveOn (γ a) v (Ioo (-a) a))
    {a a' : ℝ} (hpos : 0 < a') (hle : a' ≤ a) :
    EqOn (γ a') (γ a) (Ioo (-a') a') := by
```

**Review by ocfnash — COMMENTED** [review]
This is looking good. I will review again after you have had time to respond to my suggestions.

Another point to bear in mind is that the `IntegralCurve.lean` file is getting long. You could always make an `IntegralCurve` folder and populate it with files whose names might be a subset of this list:

- `IntegralCurve/Basic.lean`
- `IntegralCurve/Transform.lean`
- `IntegralCurve/Existence.lean`
- `IntegralCurve/Uniqueness.lean`

etc.

**Comment by winstonyin** [comment]
These are great comments. I'll split the file after implementing your suggestions.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 5 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:141]: I also added the iff version of `congr_of_eventuallyEq` and changed the spelling of the lemma name.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 13 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:609]: Yeah, this is my first time dealing with `Classical.choose`, so I'm curious if there's a better way to do this. The reason I need this lemma is that I'm trying to build a global integral curve from integral curves defined on nested intervals. I need the longer integral curve to agree with the shorter integral curve, wherever the latter is defined.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 12 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:610]: There's [ContMDiffSection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.html#ContMDiffSection). I hesitated to use it because I wanted to preserve the symmetry between the `ContMDiffAt` assumption for local integral curves and `ContMDiff` for global integral curves. That's not a very strong reason though.

Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:605]: Also from #9341, I think there's enough justification to introduce notation for tangent fields. Let's leave that for another PR.

**Comment by grunweg** [comment]
Great to see progress on this PR again! I saw that you just split the files for integral curves. That could be a great separate PR. If you make a separate PR and request my review, I'll do my best to look at it quickly.

**Comment by winstonyin** [comment]
Thank you! Yes, I’ll be starting a new PR for the split first.

**Comment by grunweg** [comment]
Re-reading this PR, I was wondering: how difficult is it to deduce that on a compact manifold, global integral curves always exist? (Follow-up is fine!)

**Comment by winstonyin** [comment]
The global existence of integral curves on compact manifolds follows pretty quickly from this lemma. Well, at least for boundaryless manifolds for now. I’ll write a followup for that when I have time.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 14]
```diff
@@ -0,0 +1,200 @@
...
+    (hγ.mono (Ioo_subset_Ioo (le_max_left ..) (min_le_left ..)))
+    (hγ'.mono (Ioo_subset_Ioo (le_max_right ..) (min_le_right ..))) h
+  exact ⟨max_lt ht₀.1.1 ht₀.2.1, lt_min ht₀.1.2 ht₀.2.2⟩
+
+/-- The extension of an integral curve by another integral curve is an integral curve.
+
+  If two integral curves are defined on overlapping open intervals, and they agree at a point in
+  their common domain, then they can be patched together to form a longer integral curve.
+
+  This is stated for manifolds without boundary for simplicity. We actually only need to assume that
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:114]: Can you record a TODO for this, e.g. in the module doc-string? You can also mention compactness there...

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 15]
```diff
@@ -0,0 +1,200 @@
...
+    rw [piecewise, if_neg hmem]
+    apply (hγ' t hmem').congr_of_eventuallyEq
+    rw [Filter.eventuallyEq_iff_exists_mem]
+    refine ⟨Ioo a' b', isOpen_Ioo.mem_nhds hmem', piecewise_eqOn_symm hv hγ hγ' ht₀ h⟩
+
+/-- If there exists `ε > 0` such that the local integral curve at each point `x : M` is defined at
+  least on an open interval `Ioo (-ε) ε`, then every point on `M` has a global integral
+  curve passing through it.
+
+  See Lemma 9.15, Lee -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:141]: Dangling sentence.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 16]
```diff
@@ -0,0 +1,200 @@
...
+lemma exists_isIntegralCurve_of_isIntegralCurveOn [BoundarylessManifold I M]
+    {v : (x : M) → TangentSpace I x}
+    (hv : ContMDiff I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M)))
+    {ε : ℝ} (hε : 0 < ε) (h : ∀ x : M, ∃ γ : ℝ → M, γ 0 = x ∧ IsIntegralCurveOn γ v (Ioo (-ε) ε))
+    (x : M) : ∃ γ : ℝ → M, γ 0 = x ∧ IsIntegralCurve γ v := by
+  let s := {a | ∃ γ, γ 0 = x ∧ IsIntegralCurveOn γ v (Ioo (-a) a)}
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:147]: I believe mathlib style puts spaces around the { and }.

**Review by grunweg — COMMENTED** [review]
I took a first look (again, after a long time). Overall, things look really good. I didn't study the last proofs in detail yet, but I guess my comments could already be useful. All very minor.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 17]
```diff
@@ -0,0 +1,200 @@
...
+Authors: Winston Yin
+-/
+import Mathlib.Geometry.Manifold.IntegralCurve.ExistUnique
+
+/-!
+# Uniform time lemma of integral curves
+
+## Main results
+
+* `exists_isIntegralCurve_of_isIntegralCurveOn`: If there exists `ε > 0` such that the local
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:13]: This follows the pattern in Basic.lean so I think I will not make this change, if you don't mind.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 18]
```diff
@@ -0,0 +1,200 @@
...
+
+* Lee, J. M. (2012). _Introduction to Smooth Manifolds_. Springer New York.
+
+## Tags
+
+integral curve, vector field, global existence
+-/
+open scoped Topology
+
+open Function Set Classical
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:27]: I'll make `Classical.choose` and `Classical.choose_spec` explicit.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 19]
```diff
@@ -0,0 +1,200 @@
...
+      exact Ioo_mem_nhds this.1 this.2
+
+lemma exists_isIntegralCurve_iff_exists_isIntegralCurveOn_Ioo [BoundarylessManifold I M]
+    (hv : ContMDiff I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M))) (x : M) :
+    (∃ γ, γ 0 = x ∧ IsIntegralCurve γ v) ↔
+      ∀ a, ∃ γ, γ 0 = x ∧ IsIntegralCurveOn γ v (Ioo (-a) a) :=
+  ⟨fun ⟨γ, h1, h2⟩ _ ↦ ⟨γ, h1, h2.isIntegralCurveOn _⟩,
+   exists_integralCurve_of_exists_isIntegralCurveOn_Ioo hv⟩
+
+lemma piecewise_eqOn_symm [BoundarylessManifold I M]
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:91]: Calling it `piecewise_eqOn_of_isIntegralCurveOn_Ioo` now. Hopefully a little better.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:13]: Fine with me. My understanding is that (usually), continuing in lower-case after a colon is correct grammar --- but mathlib is inconsistent enough on this one.

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 20]
```diff
@@ -1181,6 +1181,10 @@ theorem Ioo_union_Icc_eq_Ioc (h₁ : a < b) (h₂ : b ≤ c) : Ioo a b ∪ Icc b
 
 /-! #### Two finite intervals, `I?c` and `Io?` -/
```
Comment (grunweg) [inline Mathlib/Order/Interval/Set/Basic.lean:1182]: This comment is outdated now, can you fix it, please?

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 21]
```diff
@@ -1181,6 +1181,10 @@ theorem Ioo_union_Icc_eq_Ioc (h₁ : a < b) (h₂ : b ≤ c) : Ioo a b ∪ Icc b
...
 
+theorem Ioo_subset_Ioo_union_Ioo (h₁ : a ≤ a₁) (h₂ : c < b) (h₃ : b₁ ≤ d) :
+    Ioo a₁ b₁ ⊆ Ioo a b ∪ Ioo c d := fun x hx =>
```
Comment (grunweg) [inline Mathlib/Order/Interval/Set/Basic.lean:1185]: Optional: use \mapsto instead.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 22]
```diff
@@ -0,0 +1,207 @@
...
+  · rw [mem_Ioo]
+    exact ⟨neg_lt_zero.mpr hpos, by positivity⟩
+  · apply Ioo_subset_Ioo <;> linarith
+
+/-- Suppose for every `a : ℝ`, there exists an integral curve `γ a` on `Ioo (-a) a`, all with the
+  same starting point `γ 0 = x`. Then, the global curve `γ_ext := fun t ↦ γ (|t| + 1) t` agrees with
+  each `γ a` on `Ioo (-a) a`. This will help us show that `γ_ext` is a global integral curve. -/
+lemma exists_integralCurve_of_exists_isIntegralCurveOn_Ioo_eqOn_aux [BoundarylessManifold I M]
+    (hv : ContMDiff I I.tangent 1 (fun x ↦ (⟨x, v x⟩ : TangentBundle I M))) {x : M}
+    (h : ∀ a, ∃ γ, γ 0 = x ∧ IsIntegralCurveOn γ v (Ioo (-a) a)) {a : ℝ} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:54]: My main remaining question is about the design of these lemmas: this one (and its friends) takes a hypothesis that some integral curve *exists*, so you always need to choose one. I wonder if it's simpler to prescribe the curves as data, and pass a hypothesis "is an integral curve". What do you think?

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 23]
```diff
@@ -0,0 +1,207 @@
...
+    EqOn (fun t' ↦ Classical.choose (h (|t'| + 1)) t') (Classical.choose (h a)) (Ioo (-a) a) := by
+  let γ := fun a' ↦ Classical.choose (h a')
+  have hγx := fun a' ↦ (Classical.choose_spec (h a')).1
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:57]: Can you simplify these lines using the `choose` tactic? Something like `choose γ hγx hγ using h a'` (untested).

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:57]: (Might become obsolete, depending on your response to the comment above.)

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 24]
```diff
@@ -0,0 +1,207 @@
...
+  have hγ := fun a' ↦ (Classical.choose_spec (h a')).2
+  intros t' ht'
+  by_cases hlt : |t'| + 1 < a
+  · exact eqOn_of_isIntegralCurveOn_Ioo hv γ hγx hγ
+      (by positivity) (le_of_lt hlt) (abs_lt.mp <| lt_add_one _)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:62]: Can you replace `le_of_lt hlt` by `hlt.le`? Please check for similar instances below.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 25]
```diff
@@ -0,0 +1,207 @@
...
+  · exact eqOn_of_isIntegralCurveOn_Ioo hv γ hγx hγ
+      (neg_lt_self_iff.mp <| lt_trans ht'.1 ht'.2) (not_lt.mp hlt) ht' |>.symm
+
+/-- If for every `a : ℝ`, there exists an integral curve defined on `Ioo (-a) a`, all with the
+  same starting point `x`, then there exists a global integral curve starting at `x`. -/
+lemma exists_integralCurve_of_exists_isIntegralCurveOn_Ioo [BoundarylessManifold I M]
+    (hv : ContMDiff I I.tangent 1 (fun x ↦ (⟨x, v x⟩ : TangentBundle I M))) {x : M}
+    (h : ∀ a, ∃ γ, γ 0 = x ∧ IsIntegralCurveOn γ v (Ioo (-a) a)) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:70]: Same question about phrasing this using existence.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 26]
```diff
@@ -0,0 +1,207 @@
...
+    ∃ γ, γ 0 = x ∧ IsIntegralCurve γ v := by
+  refine ⟨fun t' ↦ Classical.choose (h (|t'| + 1)) t', (Classical.choose_spec (h (|0| + 1))).1, ?_⟩
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:72]: In any case, I wonder if you can simplify this using `choose`.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 27]
```diff
@@ -0,0 +1,207 @@
...
+  intros t ht
+  by_cases hmem : t ∈ Ioo a b
+  · rw [piecewise, if_pos hmem]
+    apply (hγ t hmem).congr_of_eventuallyEq
+    rw [Filter.eventuallyEq_iff_exists_mem]
+    refine ⟨Ioo a b, isOpen_Ioo.mem_nhds hmem, ?_⟩
+    intros t' ht'
+    rw [piecewise, if_pos ht']
+  · rw [mem_union, or_iff_not_imp_left] at ht
+    have hmem' := ht hmem
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:137]: You can inline this `have`, right?

**Review by grunweg — COMMENTED** [review]
A few more comments. Some low-level polish or golf, and one higher-level design question.

File: Mathlib/Order/Interval/Set/Basic.lean (hunk 20 above)
Comment (winstonyin) [reply Mathlib/Order/Interval/Set/Basic.lean:1182]: I decided to move the new lemma to the following section.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean (hunk 22 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:54]: That makes a lot of sense. Let me try to refactor this.

**Comment by winstonyin** [comment]
@grunweg I remember what the issue is with proving the existence of global integral curves on compact manifolds. We need that the solution to ODEs is smooth wrt the initial conditions. I'm not sure we have that in mathlib yet.

**Comment by grunweg** [comment]
Fun excursions are always nice. (I have an ever-growing list of these myself. But that means every time somebody ask "do you have a nice Lean project in mind", I have an answer :-)) I'd be happy to review, if you get there!

About smoothness: doesn't the manifold version simply follow from the statement in normed spaces? And that version should certainly be in mathlib (though I haven't checked). Put differently: I wouldn't mind merging a PR stating this for compact finite-dimensional manifolds, with a TODO that fin-dim is implied, so should be removed later.

**Review by grunweg — COMMENTED** [review]
Thanks, I like this version much better!
Reading the code, there are tedious details about discharging all the arithmetic side conditions. I do wonder if this can be golfed, but don't see a way immediately. Let's ask for some maintainer feedback! Thanks for sticking with this PR, I'm very happy it is getting into mathlib now.
maintainer merge?

**Comment by winstonyin** [comment]
If you can find the smooth dependence on initial conditions, please tell me where! I'm almost done proving that locally compact manifolds are finite-dimensional (using Riesz's theorem).

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 28]
```diff
@@ -0,0 +1,209 @@
...
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M] [SmoothManifoldWithCorners I M] [T2Space M]
+  {γ γ' : ℝ → M} {v : (x : M) → TangentSpace I x} {s s' : Set ℝ} {t₀ : ℝ}
+
+/-- This is the uniqueness theorem of integral curves applied to a real-indexed family of integral
+  curves with the same starting point. -/
+lemma eqOn_of_isIntegralCurveOn_Ioo [BoundarylessManifold I M]
+    (hv : ContMDiff I I.tangent 1 (fun x ↦ (⟨x, v x⟩ : TangentBundle I M))) {x : M}
+    (γ : ℝ → ℝ → M) (hγx : ∀ a, γ a 0 = x) (hγ : ∀ a, IsIntegralCurveOn (γ a) v (Ioo (-a) a))
+    {a a' : ℝ} (hpos : 0 < a') (hle : a' ≤ a) :
+    EqOn (γ a') (γ a) (Ioo (-a') a') := by
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:42]: I don't know the convention very well either, but I don't think `epsilon` makes sense here: `a` is any real number, not a "small" one. One could use `t` instead of `a` (no strong opinion).

Right now, this lemma is just used once (in one proof, twice). I'm not sure if there will be further uses. Perhaps, when speaking about the existence of geodesics... (which are a bit away, as mathlib is missing Riemannian metrics, hence the exponential map). What do you think @winstonyin?

**Review by grunweg — COMMENTED** [review]
Let me comment on your questions. :-)

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean (hunk 28 above)
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:42]: But at the place where it is used, the same assumption is in place, so the weakening could propagate.

[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:42]: :hammer_and_pick:

[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean]: I just pushed a commit doing this. Overall, the code gets a bit longer. What do you think?

**Comment by grunweg** [comment]
This seems ready for review again.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
